US04178377
EXAMPLE 11: 2-(1-o-chlorophenethyl-4-hydroxy-4-piperidyl)-N-butylpropionamide [process variant (e)]
A solution of 5 g of 2-(1-o-chlorophenethyl-4-hydroxy-4-piperidyl)propionic acid phenyl ester and 50 cc of n-butylamine is boiled at reflux for 18 hours in an atmosphere of nitrogen. The excess n-butylamine is then removed by evaporation at reduced pressure, the residue is taken up in chloroform and the organic phase is washed twice with water and dried over magnesium sulphate. The chloroform is evaporated at reduced pressure. The residue is treated with maleic acid in acetone and the title compound is crystallized from acetone/ether (M.P. of hydrogen maleate 130°-133° C.).

reactant | 2-(1-o-chlorophenethyl-4-hydroxy-4-piperidyl)propionic acid phenyl ester | 5 g | C1(=CC=CC=C1)OC(C(C)C1(CCN(CC1)CCC1=C(C=CC=C1)Cl)O)=O | C22H26ClNO3
solvent | n-butylamine | 50 cc | C(CCC)N | C4H11N
product | 2-(1-o-chlorophenethyl-4-hydroxy-4-piperidyl)-N-butylpropionamide | ClC1=C(CCN2CCC(CC2)(O)C(C(=O)NCCCC)C)C=CC=C1 | C20H31ClN2O2
